US07579469B2
A mixture of N-bromosuccinimide (6.84 g, 38.42 mmol), benzoylperoxide (catalytic amount) and 1,1,1-trifluoro-4-(2-methoxyphenyl)-4-methylpentan-2-one (10.0 g, 38.42 mmol) in carbon tetrachloride (120 mL) and was refluxed for two days. After cooling, the solution was washed with water (60 mL) and 1.0M NaOH (60 mL), dried over sodium sulfate (Na2SO4), and concentrated in vacuo giving 1,1,1-trifluoro-4-(5-bromo-2-methoxyphenyl)-4-methylpentan-2-one and the starting material as 3:1 mixture (13.0 g).

reactant | N-bromosuccinimide | 38.42 mmol, 6.84 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 1,1,1-trifluoro-4-(2-methoxyphenyl)-4-methylpentan-2-one | 38.42 mmol, 10.0 g | FC(C(CC(C)(C)C1=C(C=CC=C1)OC)=O)(F)F | C13H15F3O2
solvent | carbon tetrachloride | 120 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1,1,1-trifluoro-4-(5-bromo-2-methoxyphenyl)-4-methylpentan-2-one | FC(C(CC(C)(C)C1=C(C=CC(=C1)Br)OC)=O)(F)F | C13H14BrF3O2
